.SubCkt GR432B7U2J562JWC2 _net1 _net2
.param K01=5.6311e-09
.param M01=1.0000e+10
.param L02=2.5215e-11
.param M03=5.3190e-03
.param L04=1.1058e-10
.param M04=4.6137e-01
.param L05=3.6334e-11
.param M05=8.9704e-03
.param K06=1.0581e-08
.param L06=7.5804e-11
.param M06=8.5129e-01
.param K07=6.2685e-09
.param L07=4.6187e-11
.param M07=7.1542e-01
.param K08=1.9466e-08
.param L08=6.7930e-12
.param M08=1.7632e-01
.param K09=1.3180e-08
.param L09=6.0611e-12
.param M09=1.9713e-01
.param K10=1.3460e-12
.param L10=3.9419e-10
.param M10=3.6188e+02
C01 _net1 _net0102 'K01'
R01 _net1 _net0102 'M01'
L02 _net0102 _net0203 'L02'
R03 _net0203 _net0304 'M03'
L04 _net0304 _net0405 'L04'
R04 _net0304 _net0405 'M04'
L05 _net0405 _net0506 'L05'
R05 _net0405 _net0506 'M05'
C06 _net0506 _net0607 'K06'
L06 _net0506 _net0607 'L06'
R06 _net0506 _net0607 'M06'
C07 _net0607 _net0708 'K07'
L07 _net0607 _net0708 'L07'
R07 _net0607 _net0708 'M07'
C08 _net0708 _net0809 'K08'
L08 _net0708 _net0809 'L08'
R08 _net0708 _net0809 'M08'
C09 _net0809 _net0910 'K09'
L09 _net0809 _net0910 'L09'
R09 _net0809 _net0910 'M09'
C10 _net0910 _net2 'K10'
L10 _net0910 _net2 'L10'
R10 _net0910 _net2 'M10'
.ends 

.SubCkt GR432Q7U2J682JWC2 _net1 _net2
.param K01=6.7724e-09
.param M01=1.0000e+10
.param L02=9.9094e-12
.param M03=4.5086e-03
.param L04=1.4597e-10
.param M04=4.2136e-01
.param L05=2.2823e-11
.param M05=2.7390e-03
.param K06=1.0495e-08
.param L06=1.0157e-10
.param M06=8.2871e-01
.param K07=9.0565e-09
.param L07=4.4765e-11
.param M07=7.2740e-01
.param K08=1.9899e-08
.param L08=9.5443e-12
.param M08=1.8815e-01
.param K09=1.0655e-08
.param L09=1.0819e-11
.param M09=1.7987e-01
.param K10=1.3260e-12
.param L10=3.4906e-10
.param M10=2.8609e+02
C01 _net1 _net0102 'K01'
R01 _net1 _net0102 'M01'
L02 _net0102 _net0203 'L02'
R03 _net0203 _net0304 'M03'
L04 _net0304 _net0405 'L04'
R04 _net0304 _net0405 'M04'
L05 _net0405 _net0506 'L05'
R05 _net0405 _net0506 'M05'
C06 _net0506 _net0607 'K06'
L06 _net0506 _net0607 'L06'
R06 _net0506 _net0607 'M06'
C07 _net0607 _net0708 'K07'
L07 _net0607 _net0708 'L07'
R07 _net0607 _net0708 'M07'
C08 _net0708 _net0809 'K08'
L08 _net0708 _net0809 'L08'
R08 _net0708 _net0809 'M08'
C09 _net0809 _net0910 'K09'
L09 _net0809 _net0910 'L09'
R09 _net0809 _net0910 'M09'
C10 _net0910 _net2 'K10'
L10 _net0910 _net2 'L10'
R10 _net0910 _net2 'M10'
.ends 

.SubCkt GR432D7U2J822JWC2 _net1 _net2
.param K01=8.2524e-09
.param M01=1.0000e+10
.param L02=9.1365e-12
.param M03=4.2527e-03
.param L04=1.1904e-10
.param M04=3.8048e-01
.param L05=4.6522e-11
.param M05=4.9872e-03
.param K06=1.6414e-08
.param L06=8.8713e-11
.param M06=8.2612e-01
.param K07=1.4274e-08
.param L07=3.8824e-11
.param M07=6.4517e-01
.param K08=2.3572e-08
.param L08=1.1047e-11
.param M08=1.9473e-01
.param K09=9.9329e-09
.param L09=1.5748e-11
.param M09=2.0335e-01
.param K10=1.5639e-12
.param L10=4.5992e-10
.param M10=2.6770e+02
C01 _net1 _net0102 'K01'
R01 _net1 _net0102 'M01'
L02 _net0102 _net0203 'L02'
R03 _net0203 _net0304 'M03'
L04 _net0304 _net0405 'L04'
R04 _net0304 _net0405 'M04'
L05 _net0405 _net0506 'L05'
R05 _net0405 _net0506 'M05'
C06 _net0506 _net0607 'K06'
L06 _net0506 _net0607 'L06'
R06 _net0506 _net0607 'M06'
C07 _net0607 _net0708 'K07'
L07 _net0607 _net0708 'L07'
R07 _net0607 _net0708 'M07'
C08 _net0708 _net0809 'K08'
L08 _net0708 _net0809 'L08'
R08 _net0708 _net0809 'M08'
C09 _net0809 _net0910 'K09'
L09 _net0809 _net0910 'L09'
R09 _net0809 _net0910 'M09'
C10 _net0910 _net2 'K10'
L10 _net0910 _net2 'L10'
R10 _net0910 _net2 'M10'
.ends 

.SubCkt GR432D7U2J103JWC2 _net1 _net2
.param K01=9.9431e-09
.param M01=1.0000e+10
.param L02=1.1480e-11
.param M03=4.0729e-03
.param L04=2.0460e-10
.param M04=3.5936e-01
.param L05=2.2573e-11
.param M05=1.8784e-03
.param K06=1.4158e-08
.param L06=1.4197e-10
.param M06=1.0692e+00
.param K07=1.4457e-08
.param L07=5.2914e-11
.param M07=7.3137e-01
.param K08=4.5950e-08
.param L08=8.1914e-12
.param M08=2.5796e-01
.param K09=2.1722e-08
.param L09=1.0900e-11
.param M09=2.2825e-01
.param K10=1.6137e-12
.param L10=3.3043e-10
.param M10=5.8083e+02
C01 _net1 _net0102 'K01'
R01 _net1 _net0102 'M01'
L02 _net0102 _net0203 'L02'
R03 _net0203 _net0304 'M03'
L04 _net0304 _net0405 'L04'
R04 _net0304 _net0405 'M04'
L05 _net0405 _net0506 'L05'
R05 _net0405 _net0506 'M05'
C06 _net0506 _net0607 'K06'
L06 _net0506 _net0607 'L06'
R06 _net0506 _net0607 'M06'
C07 _net0607 _net0708 'K07'
L07 _net0607 _net0708 'L07'
R07 _net0607 _net0708 'M07'
C08 _net0708 _net0809 'K08'
L08 _net0708 _net0809 'L08'
R08 _net0708 _net0809 'M08'
C09 _net0809 _net0910 'K09'
L09 _net0809 _net0910 'L09'
R09 _net0809 _net0910 'M09'
C10 _net0910 _net2 'K10'
L10 _net0910 _net2 'L10'
R10 _net0910 _net2 'M10'
.ends 

.SubCkt GR432E7U2J123JWC1 _net1 _net2
.param K01=1.2000e-08
.param M01=8.3333e+09
.param L02=5.6471e-10
.param M03=2.5505e-03
.param K04=8.4635e-07
.param M04=5.1006e+00
.param L05=1.7092e-10
.param M05=3.4484e-01
.param L06=8.5422e-11
.param M06=5.6983e-03
.param K07=2.6498e-08
.param L07=9.4869e-11
.param M07=8.4182e-01
.param K08=1.7109e-08
.param L08=5.7165e-11
.param M08=6.0984e-01
.param K09=3.6578e-08
.param L09=1.3401e-11
.param M09=2.1638e-01
.param K10=3.4136e-08
.param L10=8.6522e-12
.param M10=2.0194e-01
C01 _net1 _net0102 'K01'
R01 _net1 _net0102 'M01'
L02 _net0102 _net0203 'L02'
R03 _net0203 _net0304 'M03'
C04 _net0304 _net0405 'K04'
R04 _net0304 _net0405 'M04'
L05 _net0405 _net0506 'L05'
R05 _net0405 _net0506 'M05'
L06 _net0506 _net0607 'L06'
R06 _net0506 _net0607 'M06'
C07 _net0607 _net0708 'K07'
L07 _net0607 _net0708 'L07'
R07 _net0607 _net0708 'M07'
C08 _net0708 _net0809 'K08'
L08 _net0708 _net0809 'L08'
R08 _net0708 _net0809 'M08'
C09 _net0809 _net0910 'K09'
L09 _net0809 _net0910 'L09'
R09 _net0809 _net0910 'M09'
C10 _net0910 _net2 'K10'
L10 _net0910 _net2 'L10'
R10 _net0910 _net2 'M10'
.ends 

.SubCkt GR432E7U2J153JWC1 _net1 _net2
.param K01=1.5000e-08
.param M01=6.6667e+09
.param L02=5.1981e-11
.param M03=2.8559e-03
.param K04=8.5532e-07
.param M04=1.3928e+01
.param L05=1.6533e-10
.param M05=3.0592e-01
.param K06=1.8682e-06
.param L06=4.2697e-11
.param M06=2.3255e-03
.param K07=2.1991e-08
.param L07=1.6295e-10
.param M07=1.2819e+00
.param K08=1.9362e-08
.param L08=7.5364e-11
.param M08=7.8255e-01
.param K09=2.9487e-08
.param L09=2.5069e-11
.param M09=3.6274e-01
.param K10=2.8009e-08
.param L10=1.6779e-11
.param M10=2.7223e-01
.param K11=5.8103e-08
.param L11=5.3137e-12
.param M11=1.1883e-01
.param K12=4.7607e-08
.param L12=4.7523e-12
.param M12=1.0315e-01
.param K13=1.7255e-08
.param L13=7.3787e-12
.param M13=4.6336e-02
.param K14=7.3138e-11
.param L14=1.1486e-11
.param M14=1.3144e+00
.param K15=1.9617e-12
.param L15=2.6127e-10
.param M15=5.4443e+02
.param K16=1.1328e-11
.param L16=4.2676e-11
.param M16=2.8102e+02
C01 _net1 _net0102 'K01'
R01 _net1 _net0102 'M01'
L02 _net0102 _net0203 'L02'
R03 _net0203 _net0304 'M03'
C04 _net0304 _net0405 'K04'
R04 _net0304 _net0405 'M04'
L05 _net0405 _net0506 'L05'
R05 _net0405 _net0506 'M05'
C06 _net0506 _net0607 'K06'
L06 _net0506 _net0607 'L06'
R06 _net0506 _net0607 'M06'
C07 _net0607 _net0708 'K07'
L07 _net0607 _net0708 'L07'
R07 _net0607 _net0708 'M07'
C08 _net0708 _net0809 'K08'
L08 _net0708 _net0809 'L08'
R08 _net0708 _net0809 'M08'
C09 _net0809 _net0910 'K09'
L09 _net0809 _net0910 'L09'
R09 _net0809 _net0910 'M09'
C10 _net0910 _net1011 'K10'
L10 _net0910 _net1011 'L10'
R10 _net0910 _net1011 'M10'
C11 _net1011 _net1112 'K11'
L11 _net1011 _net1112 'L11'
R11 _net1011 _net1112 'M11'
C12 _net1112 _net1213 'K12'
L12 _net1112 _net1213 'L12'
R12 _net1112 _net1213 'M12'
C13 _net1213 _net1314 'K13'
L13 _net1213 _net1314 'L13'
R13 _net1213 _net1314 'M13'
C14 _net1314 _net1415 'K14'
L14 _net1314 _net1415 'L14'
R14 _net1314 _net1415 'M14'
C15 _net1415 _net1516 'K15'
L15 _net1415 _net1516 'L15'
R15 _net1415 _net1516 'M15'
C16 _net1516 _net2 'K16'
L16 _net1516 _net2 'L16'
R16 _net1516 _net2 'M16'
.ends 
